US04508717
A 2 M solution of phosgene in toluene (32.6 cc) is added dropwise to a solution of the syn form of 2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetic acid (25 g) in a mixture of dry methylene chloride (500 cc) and N,N-dimethylacetamide (5.25 cc), cooled to -10° C. The reaction mixture is stirred for 3 hours 30 minutes at between -5° and 0° C. and N,N-dimethylacetamide (15.8 cc) and a solution of 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyridin-3-yl)-thiazol-5-yl]-5-thia-1-azabicyclo-[4.2.0]oct-2-ene 5-oxide (26 g) in methylene chloride (200 cc) are then added at -5° C. The reaction mixture is stirred for 1 hour 30 minutes at between 0° and +5° C. and then for 16 hours at 20° C. and is then treated with a 5% strength solution of sodium bicarbonate (500 cc) and filtered. The organic phase is washed with a semi-saturated solution of sodium chloride (500 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is chromatographed on a column (height=52 cm, diameter=7 cm) of silica gel (0.06-0.2 mm), ethyl acetate being used as the eluent and 1 liter fractions being collected. Fractions 6 to 13 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. to give the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2 .0]-oct-2-ene 5-oxide (20.2 g) in the form of a cream solid (by taking up the resulting hard foam in methylene chloride (80 cc) and precipitating the product with isopropyl ether (300 cc)).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetic acid | 25 g | CON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3O3S
reactant | 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyridin-3-yl)-thiazol-5-yl]-5-thia-1-azabicyclo-[4.2.0]oct-2-ene 5-oxide | 26 g | NC1C2S(CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)C=1C=NC=CC1)=O | C28H22N4O4S2
reactant | sodium bicarbonate | 500 cc | C([O-])(O)=O.[Na+]
solvent | toluene | 32.6 cc | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 200 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 cc | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylacetamide | 15.8 cc | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 5.25 cc | CN(C(C)=O)C | C4H9NO
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2 .0]-oct-2-ene 5-oxide | 20.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1C1=CN=C(S1)C=1C=NC=CC1)=O)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C53H41N7O6S3
